### PR TITLE
feat(Combinatorics/SimpleGraph): define turanDensity

### PR DESCRIPTION
**Pull request by mitchell-horner**
Define the Turán density `turanDensity H` of a simple graph `H`: `turanDensity H` is the limit of `extremalNumber n H / n.choose 2` as `n` approaches `∞`.

Also prove

- the Turán density of a simple graph is well-defined, that is, the limit `extremalNumber n H / n.choose 2` as `n` approaches `∞` exists,
- `extremalNumber n H` is asymptotically equivalent to `turanDensity H * n.choose 2` as `n` approaches `∞`.

---

- [x] depends on: #19865
- [x] depends on: #20681

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+
+namespace SimpleGraph
+
+variable {V W : Type*} {G : SimpleGraph V} {H : SimpleGraph W}
+
+/-- If `G` is `H.Free`, then `G.deleteIncidenceSet v` is also `H.Free` and has at most
+`extremalNumber (card V-1) H` many edges. -/
+theorem card_edgeFinset_deleteIncidenceSet_le_extremalNumber
+    [Fintype V] [DecidableRel G.Adj] [DecidableEq V] (h : H.Free G) (v : V) :
+    #(G.deleteIncidenceSet v).edgeFinset ≤ extremalNumber (card V-1) H := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:38]:
```suggestion
    #(G.deleteIncidenceSet v).edgeFinset ≤ extremalNumber (card V - 1) H := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+
+open Asymptotics Filter Finset Fintype Topology
+
+namespace SimpleGraph
+
+variable {V W : Type*} {G : SimpleGraph V} {H : SimpleGraph W}
+
+/-- If `G` is `H.Free`, then `G.deleteIncidenceSet v` is also `H.Free` and has at most
+`extremalNumber (card V-1) H` many edges. -/
+theorem card_edgeFinset_deleteIncidenceSet_le_extremalNumber
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:36]: I think this lemma might belong in a different file, perhaps the one defining the extremal number

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+      rw [card_filter, sum_product]
+      enter [2, x]
+      rw [← card_filter]
+    apply sum_le_sum
+    intro i _
+    simpa [edgeFinset_deleteIncidenceSet_eq_filter]
+      using card_edgeFinset_deleteIncidenceSet_le_extremalNumber h i
+
+/-- The limit `extremalNumber (Fin n) H / n.choose 2` as `n` approaches `∞` exists. -/
+lemma exists_tendsto_extremalNumber_div_choose_two (H : SimpleGraph W) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:83]:
```suggestion
private lemma exists_tendsto_extremalNumber_div_choose_two (H : SimpleGraph W) :
```
because it's a weaker form of `tendsto_turanDensity`.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+theorem tendsto_turanDensity (H : SimpleGraph W) :
+    Tendsto (fun (n : ℕ) ↦ (extremalNumber n H / n.choose 2 : ℝ)) atTop (𝓝 (turanDensity H)) := by
+  have ⟨_, h⟩ := exists_tendsto_extremalNumber_div_choose_two H
+  rwa [← Tendsto.limUnder_eq h] at h
+
+/-- `extremalNumber n H` is asymptotically equivalent to `turanDensity H * n.choose 2` as `n`
+approaches `∞`. -/
+theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
+    (fun (n : ℕ) ↦ (extremalNumber n H : ℝ))
+      ~[atTop] (fun (n : ℕ) ↦ (turanDensity H * n.choose 2 : ℝ)) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:116]: Is there really no way to fit this in one line? I'd guess you don't need the type ascription on `n` in the second case, and maybe not even in the first case...?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+    [Fintype V] [DecidableRel G.Adj] [DecidableEq V] (h : H.Free G) (v : V) :
+    #(G.deleteIncidenceSet v).edgeFinset ≤ extremalNumber (card V-1) H := by
+  rw [← card_edgeFinset_induce_compl_singleton, ← @card_unique ({v} : Set V), ← card_compl_set]
+  apply card_edgeFinset_le_extremalNumber
+  contrapose! h
+  rw [not_free] at h ⊢
+  exact h.trans ⟨Copy.induce G {v}ᶜ⟩
+
+lemma extremalNumber_div_choose_two_succ_le {n : ℕ} (hn : 2 ≤ n) (H : SimpleGraph W) :
+    (extremalNumber (n+1) H / (n+1).choose 2 : ℝ) ≤ (extremalNumber n H / n.choose 2 : ℝ) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:46]: You use this with `antitone_nat_of_succ_le`, but I think the antitone property is the one which should have a lemma (and the first step of the proof can be applying `antitone_nat_of_succ_le`)

File: Mathlib/Data/Sym/Sym2.lean [hunk 6]
```diff
@@ -590,6 +590,55 @@ theorem fromRel_toRel (s : Set (Sym2 α)) : fromRel (toRel_symmetric s) = s :=
...
+  simp [List.Perm.swap]
+
+/-- Mapping an unordered pair to an unordered list produces a multiset of size `2`. -/
+lemma card_toMultiset {α : Type*} (z : Sym2 α) : z.toMultiset.card = 2 := by
+  induction z
+  simp [Sym2.toMultiset]
+
+/-- The members of an unordered pair are members of the corresponding unordered list. -/
+theorem mem_toMultiset {α : Type*} {x : α} {z : Sym2 α} :
+    x ∈ z ↔ x ∈ (z.toMultiset : Multiset α) := by
```
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean:608]: Let's put this the other way round and mark it simp

File: Mathlib/Data/Sym/Sym2.lean [hunk 7]
```diff
@@ -590,6 +590,55 @@ theorem fromRel_toRel (s : Set (Sym2 α)) : fromRel (toRel_symmetric s) = s :=
...
+
+/-- The members of an unordered pair are members of the corresponding finite set. -/
+theorem mem_toFinset {x : α} {z : Sym2 α} : x ∈ z ↔ x ∈ z.toFinset := by
+  rw [Sym2.mem_toMultiset, Sym2.toFinset, Multiset.mem_toFinset]
+
+lemma toFinset_mk_eq {x y : α} : s(x, y).toFinset = {x, y} := by
+  ext; simp [←Sym2.mem_toFinset, ←Sym2.mem_iff, Sym2.mem_toMultiset]
+
+/-- Mapping an unordered pair on the diagonal to a finite set produces a finset of size `1`. -/
+theorem card_toFinset_of_isDiag (z : Sym2 α) (h : z.IsDiag) : #(z : Sym2 α).toFinset = 1 := by
```
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean:629]: Let's have a version of these lemmas of the form `_ = if z.IsDiag then 1 else 2`

File: Mathlib/Data/Sym/Sym2.lean [hunk 8]
```diff
@@ -590,6 +590,55 @@ theorem fromRel_toRel (s : Set (Sym2 α)) : fromRel (toRel_symmetric s) = s :=
...
+
+section ToFinset
+
+variable [DecidableEq α]
+
+/-- Map an unordered pair to a finite set. -/
+def toFinset (z : Sym2 α) : Finset α := (z.toMultiset : Multiset α).toFinset
+
+/-- The members of an unordered pair are members of the corresponding finite set. -/
+theorem mem_toFinset {x : α} {z : Sym2 α} : x ∈ z ↔ x ∈ z.toFinset := by
```
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean:622]: as before, reverse and simp please!

File: Mathlib/Data/Sym/Sym2.lean
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean:1]: In the future I'd suggest making changes like this in a separate PR, since they're sufficiently unrelated to the Turan stuff

**Review by b-mehta — COMMENTED** [review]
This is in generally good shape, I've left some ways you could improve it. 
Sorry for the delay on this one!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 9]
```diff
@@ -0,0 +1,127 @@
...
+    rw [← Fintype.card_fin (n+1)]
+  rw [div_le_iff₀ (mod_cast Nat.choose_pos (by linarith)),
+    extremalNumber_le_iff_of_nonneg H (by positivity)]
+  intro G _ h
+  rw [mul_comm, ← mul_div_assoc, le_div_iff₀' (mod_cast Nat.choose_pos hn), Nat.cast_choose_two,
+    Nat.cast_choose_two, Nat.cast_add_one, add_sub_cancel_right (n : ℝ) 1,
+    mul_comm _ (n-1 : ℝ), ← mul_div (n-1 : ℝ), mul_comm _ (n/2 : ℝ), mul_assoc,
+    ← mul_div (n+1 : ℝ), mul_comm _ (n/2 : ℝ), mul_assoc, mul_le_mul_left (by positivity),
+    ← Nat.cast_pred (by positivity), ←Nat.cast_mul, ←Nat.cast_add_one, ←Nat.cast_mul, Nat.cast_le]
+  -- double counting `(v, e) ↦ v ∉ e`
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:52]: Yes!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 3 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I'll just put the contents of `exists_tendsto_extremalNumber_div_choose_two` after a `suffices` in `tendsto_turanDensity`.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 5 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I really need something like
```
theorem monotoneOn_nat_Ici_of_le_succ {f : ℕ → α} {k : ℕ} (hf : ∀ n ≥ k, f n ≤ f (n + 1)) :
    MonotoneOn f (Set.Ici k) :=
  fun _ hab _ _ hle ↦ Nat.rel_of_forall_rel_succ_of_le_of_le (· ≤ ·) hf hab hle
```
and then an iff like `monotone_add_nat_iff_monotoneOn_nat_Ici`, but I'm not sure where I would put these? I can't put them in `Mathlib.Order.Monotone.Basic` with `antitone_nat_of_succ_le` because `Set.Ici` cannot be imported in this file...

Where should they go?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: That's tricky, try asking on zulip!

File: Mathlib/Data/Sym/Sym2.lean
Comment (mitchell-horner) [reply Mathlib/Data/Sym/Sym2.lean:1]: Sorry, I just needed `card_toFinset_mem_edgeFinset` and got carried away.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 5 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I've used `{ x | k ≤ x }` and added a TODO for the time being.
